US09120749B2
tert-butyl 1-(5-aminopyrimidin-2-yl)piperidin-4-ylcarbamate
Following General procedure H, 2-chloro-5-nitropyrimidine (500 mg, 3.1 mmol) was reacted with tert-butyl piperidin-4-ylcarbamate (683 mg, 3.5 mmol) followed by reduction to afford the desired product (792 mg, 87%) as a purple solid: ESI MS m/z 294 [C14H23N5O2+H]+.

reactant | 2-chloro-5-nitropyrimidine | 3.1 mmol, 500 mg | ClC1=NC=C(C=N1)[N+](=O)[O-] | C4H2ClN3O2
reactant | tert-butyl piperidin-4-ylcarbamate | 3.5 mmol, 683 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | tert-butyl 1-(5-aminopyrimidin-2-yl)piperidin-4-ylcarbamate | 792 mg, 87% | NC=1C=NC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C14H23N5O2
